US06610707B1
tert-Butyl (2S)-2-{5-[(1-[(Benzyloxy)carbonyl]-4-piperidyloxy)methyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate
The title compound was prepared by a similar method to Preparation 13 from (Z)-(2S)-2-[amino([2-(1-[(benzyloxy)carbonyl]-4-piperidyloxy)acetyl]oxyimino)methyl]-1-piperidinecarboxylate [see Preparation 93] and pyridine. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 80:20, changing to 50:50, by volume, hexane:ethyl acetate, in 5% increments, to afford tert-butyl (2S)-2-{5-[(1-[(benzyloxy)carbonyl]-4-piperidyloxy)methyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate.

reactant | (Z)-(2S)-2-[amino([2-(1-[(benzyloxy)carbonyl]-4-piperidyloxy)acetyl]oxyimino)methyl]-1-piperidinecarboxylate | N\C(\[C@H]1N(CCCC1)C(=O)[O-])=N/OC(COC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tert-butyl (2S)-2-{5-[(1-[(benzyloxy)carbonyl]-4-piperidyloxy)methyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OCC1=NC(=NO1)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C26H36N4O6
